US08076323B2
(S)-3-(1′-Methylcyclohexanecarbonyl)amino-tetrahydropyridin-2-one
(S)-3-Amino-tetrahydropyridin-2-one hydrochloride (2 mmol) and Na2CO3 (6 mmol) in water (25 ml) were added to a solution of 1-methylcyclohexanecarbonyl chloride (2 mmol) in dichloromethane (25 ml) at ambient temperature and the reaction was stirred for 18 hours. The organic layer was then separated and the aqueous phase was extracted with additional dichloromethane. The combined organic layers were dried over Na2SO4 and reduced in vacuo. The residue was purified by silica column chromatography (EtOAc:hexanes 1:3 to MeOH:EtOAc 1:19) to give as an amorphous solid (199 mg, 42%); νmax/cm−1 3335, 3269 (NH), 1650, 1621 (CO), 1529 (NH); δH (500 MHz, CDCl3) 6.65 (1H, br d, J 5, NH), 6.59 (1H, br s, NH), 4.18 (1H, dt, J 11.5, 5.5, CHNH), 3.30 (2H, td, J6.5, 2.5, CH2NH), 2.52 (1H, ddt, J 13, 5.5, 4.5, lactam CH2), 1.92-1.83 (4H, m, 2× lactam CH and 2× cyclohexane CH2), 1.55-1.23 (9H, m, lactam CH and 8× cyclohexane CH2) and 1.11 (3H, s, CH3); δC (125 MHz, CDCl3) 178.0, 172.3 (CO), 50.4 (NHCHCO), 42.6 (CH3C quat), 41.5, 35.6, 35.5, 27.0 (CH2), 26.3 (CH3), 25.7, 22.8 (×2), 20.9 (CH2): m/z (MNa+ C13H22N2O2Na requires 261.1579) 261.1570.

reactant | (S)-3-Amino-tetrahydropyridin-2-one hydrochloride | 2 mmol | Cl.N[C@@H]1C(NCCC1)=O
reactant | Na2CO3 | 6 mmol | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1-methylcyclohexanecarbonyl chloride | 2 mmol | CC1(CCCCC1)C(=O)Cl | C8H13ClO
solvent | water | 25 ml | O | H2O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | (S)-3-(1′-Methylcyclohexanecarbonyl)amino-tetrahydropyridin-2-one | 199 mg, 42% | CC1(CCCCC1)C(=O)N[C@@H]1C(NCCC1)=O | C13H22N2O2
